US05108486
A mixture of 19.4 g (0.0871 mole) of 2-methyl-4-(3-methylcarbonylphenyl)-3-thiosemicarbazide and 36.6 g (0.174 mole) of trifluoroacetic anhydride in 150 ml of toluene was stirred at room temperature for approximately 18 hours. The reaction mixture was neutralized with an aqueous, 10% sodium hydroxide solution. The organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to yield 20.3 g of 3-trifluoromethyl-4,5-dihydro- 1-methyl-4-(3-methylcarbonylphenyl)-1,2,4-triazol-5(1H)-thione as a thick oil. The nmr spectrum of the oil indicated that it contained about 65% of the desired product, the balance being reaction by-products.

reactant | 2-methyl-4-(3-methylcarbonylphenyl)-3-thiosemicarbazide | 0.0871 mole, 19.4 g | CN(N)C(=S)NC1=CC(=CC=C1)C(=O)C | C10H13N3OS
reactant | trifluoroacetic anhydride | 0.174 mole, 36.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-trifluoromethyl-4,5-dihydro- 1-methyl-4-(3-methylcarbonylphenyl)-1,2,4-triazol-5(1H)-thione | 20.3 g | FC(C1=NN(C(N1C1=CC(=CC=C1)C(=O)C)=S)C)(F)F | C12H10F3N3OS
